US04686291
516 g (6 mols) of methyl isopropyl ketone, 759 g (6 mols) of benzyl chloride and 60 g (0.186 mol) of tetrabutylammonium bromide are dissolved in 1 liter of toluene, and the solution is heated to 100° C. 420 g (7.49 mols) of powered potassium hydroxide are slowly metered in at this temperature. The reaction mixture is stirred for 12 hours at 100° C. and cooled, and 1.5 liters of water are added. The organic phase is separated off, dried over sodium sulphate and distilled fractionally. 507 g of 3,3-dimethyl-4-phenylbutan-2-one of boiling point 82° C./0.05 mbar are obtained.

reactant | methyl isopropyl ketone | 6 mols, 516 g | C(C)(C)C(=O)C | C5H10O
reactant | benzyl chloride | 6 mols, 759 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 7.49 mols, 420 g | [OH-].[K+]
reactant | water | 1.5 liters | O | H2O
catalyst | tetrabutylammonium bromide | 0.186 mol, 60 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethyl-4-phenylbutan-2-one | 507 g | CC(C(C)=O)(CC1=CC=CC=C1)C | C12H16O
